US05506089
4-styrylpyridine (1.81 g) and 2-(2-bromoethyl) 1,3-dioxane (1.95 g) were stirred and refluxed in ethylacetate (15 ml) solution for 15 hours. After cooling of the reaction mixture creamy crystals were separated by filtration, washed with ethyl ether and dried to give 3.4 g of N-[2- (1,3-dioxane-2-yl) ethyl]-4-styrylpyridinium bromide.

reactant | 4-styrylpyridine | 1.81 g | C(=CC1=CC=CC=C1)C1=CC=NC=C1 | C13H11N
reactant | 2-(2-bromoethyl) 1,3-dioxane | 1.95 g | BrCCC1OCCCO1 | C6H11BrO2
solvent | ethylacetate | 15 ml | C(C)OC(C)=O | C4H8O2
product | N-[2- (1,3-dioxane-2-yl) ethyl]-4-styrylpyridinium bromide | 3.4 g | [Br-].O1C(OCCC1)CC[N+]1=CC=C(C=C1)C=CC1=CC=CC=C1 | InChI=1S/C19H22NO2.BrH/c1-2-5-17(6-3-1)7-8-18-9-12-20(13-10-18)14-11-19-21-15-4-16-22-19;/h1-3,5-10,12-13,19H,4,11,14-16H2;1H/q+1;/p-1
